US03950427
A solution of 23.7 gm (0.1 mol) of 3-(2'-fluoro-4-biphenylyl)-crotononitrile in 500 ml of dry methylene chloride was added dropwise over a period of 75 minutes to a Grignard reagent prepared from 12.2 gm (0.5 mol) of magnesium and 71 gm (0.5 mol) of methyl iodide in 500 ml of anhydrous ether, and the resulting mixture was refluxed for 4.5 hours. Thereafter, the cooled reaction mixture was stirred into a mixture consisting of 2 kg of ice and 100 ml of concentrated sulfuric acid. The organic phase was separated, washed with aqueous 1% sulfuric acid, then with water, then with a saturated aqueous sodium bicarbonate solution and again with water, dried over sodium sulfate, and evaporated in vacuo. The solid residue was recrystallized from cyclohexane, yielding 7.2 gm (28% of theory) of fallow crystalline (E)-4-(2'-fluoro-4-biphenylyl)-3-penten-2-one, m.p. 92°C.

reactant | 3-(2'-fluoro-4-biphenylyl)-crotononitrile | 0.1 mol, 23.7 gm | FC1=C(C=CC=C1)C1=CC=C(C=C1)\C(=C/C#N)\C | C16H12FN
reactant | magnesium | 0.5 mol, 12.2 gm | [Mg] | Mg
reactant | methyl iodide | 0.5 mol, 71 gm | CI | CH3I
reactant | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
reactant | ether | 500 ml | CCOCC | C4H10O
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | (E)-4-(2'-fluoro-4-biphenylyl)-3-penten-2-one | FC1=C(C=CC=C1)C1=CC=C(C=C1)/C(=C/C(C)=O)/C | C17H15FO
